US06703392B2
N-[2(3-methoxy-isopropoxy-phenyl)-ethyl]-3,4-dimethoxyphenyl-acetamide:
prepared by reaction of 2,3,4-trimethoxyphenylethylamine with 3,4-dimethoxyphenyl acetyl chloride.

reactant | 2,3,4-trimethoxyphenylethylamine | COC(CN)C1=CC(=C(C=C1)OC)OC | C11H17NO3
reactant | 3,4-dimethoxyphenyl acetyl chloride | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
product | N-[2(3-methoxy-isopropoxy-phenyl)-ethyl]-3,4-dimethoxyphenyl-acetamide | COC=1C(=C(C=CC1)CCNC(CC1=CC(=C(C=C1)OC)OC)=O)OC(C)C | C22H29NO5
